US08629147B2
3-[6-(8-Benzyl-2,8-diaza-spiro[5.5]undec-2-yl)-4-methyl-1H-benzoimidazol-2-yl]-4-[(S)-2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-1H-pyridin-2-one
A solution of 3-[6-(8-benzyl-2,8-diaza-spiro[5.5]undec-2-yl)-4-methyl-1H-benzoimidazol-2-yl]-4-chloro-1H-pyridin-2-one (17 mg, 0.034 mmol), (S)-2-amino-1-(3-chlorophenyl)-ethanol (29 mg, 0.17 mmol) and Et3N (34 mg, 0.34 mmol) in EtOH (0.5 mL) was heated at 80° C. for 16 h and then the reaction mixture was evaporated. The residue was purified by chromatography (25:1 CH2Cl2/MeOH) to afford the title compound (8 mg, 64%). 1H NMR (MeOH-d4) δ 1.28 (m, 2H), 1.50-1.83 (4H), 2.07-2.27 (2H), 2.48-2.61 (2H), 2.54 (s, 3H), 2.82-2.94 (2H), 3.041-3.23 (2H), 3.40-3.55 (2H), 3.59-3.73 (2H), 4.75 (m, 1H), 4.98 (m, 1H), 6.20 (d, J=6 Hz, 1H), 6.75 (s, 1H), 6.84 (s, 1H), 7.19-7.32 (8H), 7.35-7.42 (2H), 7.54 (s, 1H). ESI-MS m/z 637 (MH+).

reactant | 3-[6-(8-benzyl-2,8-diaza-spiro[5.5]undec-2-yl)-4-methyl-1H-benzoimidazol-2-yl]-4-chloro-1H-pyridin-2-one | 0.034 mmol, 17 mg | C(C1=CC=CC=C1)N1CC2(CCCN(C2)C=2C=C(C3=C(NC(=N3)C=3C(NC=CC3Cl)=O)C2)C)CCC1 | C29H32ClN5O
reactant | (S)-2-amino-1-(3-chlorophenyl)-ethanol | 0.17 mmol, 29 mg | NC[C@@H](O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | Et3N | 0.34 mmol, 34 mg | CCN(CC)CC | C6H15N
solvent | EtOH | 0.5 mL | CCO | C2H6O
product | 3-[6-(8-Benzyl-2,8-diaza-spiro[5.5]undec-2-yl)-4-methyl-1H-benzoimidazol-2-yl]-4-[(S)-2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-1H-pyridin-2-one | 8 mg, 64% | C(C1=CC=CC=C1)N1CC2(CCCN(C2)C=2C=C(C3=C(NC(=N3)C=3C(NC=CC3NC[C@@H](O)C3=CC(=CC=C3)Cl)=O)C2)C)CCC1 | C37H41ClN6O2
